************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS392
* Top Cell Name: Twos_Complementer
* View Name:     schematic
* Netlisted on:  Jun  4 13:55:51 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: EECS392
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B Output
*.PININFO A:I B:I Output:O
MM2 Output A B vdd! PMOS_VTG W=300n L=50n m=1
MM1 Output B A vdd! PMOS_VTG W=300n L=50n m=1
MM0 net9 A vdd! vdd! PMOS_VTG W=300n L=50n m=1
MM5 Output net9 B gnd! NMOS_VTG W=280.0n L=50n m=1
MM4 Output B net9 gnd! NMOS_VTG W=280.0n L=50n m=1
MM3 net9 A gnd! gnd! NMOS_VTG W=280.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    Inverter
* View Name:    schematic
************************************************************************

.SUBCKT Inverter In Out
*.PININFO In:I Out:O
MM0 Out In vdd! vdd! PMOS_VTG W=1.96u L=50n m=1
MM1 Out In gnd! gnd! NMOS_VTG W=1.44u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B Output
*.PININFO A:I B:I Output:O
MM2 Output B vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM0 Output A vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B gnd! gnd! NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 gnd! NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B Output
*.PININFO A:I B:I Output:O
XI5 net8 Output / Inverter
XI4 A B net8 / NAND
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B Output
*.PININFO A:I B:I Output:O
MM1 Output A gnd! gnd! NMOS_VTG W=720.0n L=50n m=1
MM0 Output B gnd! gnd! NMOS_VTG W=720.0n L=50n m=1
MM3 Output B net15 vdd! PMOS_VTG W=1.56u L=50n m=1
MM2 net15 A vdd! vdd! PMOS_VTG W=1.56u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    OR
* View Name:    schematic
************************************************************************

.SUBCKT OR A B Output
*.PININFO A:I B:I Output:O
XI0 A B net7 / NOR
XI1 net7 Output / Inverter
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    FULL_ADDER
* View Name:    schematic
************************************************************************

.SUBCKT FULL_ADDER A B Cin Cout S
*.PININFO A:I B:I Cin:I Cout:O S:O
XI5 net11 Cin S / XOR
XI0 A B net11 / XOR
XI8 net11 Cin net14 / AND
XI9 A B net7 / AND
XI7 net14 net7 Cout / OR
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    Twos_Complementer
* View Name:    schematic
************************************************************************

.SUBCKT Twos_Complementer IN<7> IN<6> IN<5> IN<4> IN<3> IN<2> IN<1> IN<0> 
+ OUT<7> OUT<6> OUT<5> OUT<4> OUT<3> OUT<2> OUT<1> OUT<0>
*.PININFO IN<7>:I IN<6>:I IN<5>:I IN<4>:I IN<3>:I IN<2>:I IN<1>:I IN<0>:I 
*.PININFO OUT<7>:O OUT<6>:O OUT<5>:O OUT<4>:O OUT<3>:O OUT<2>:O OUT<1>:O 
*.PININFO OUT<0>:O
XI8 gnd! net05 vdd! net7 OUT<0> / FULL_ADDER
XI7 gnd! net08 net7 net9 OUT<1> / FULL_ADDER
XI6 gnd! net010 net9 net11 OUT<2> / FULL_ADDER
XI5 gnd! net012 net11 net13 OUT<3> / FULL_ADDER
XI4 gnd! net020 net19 gnd! OUT<7> / FULL_ADDER
XI3 gnd! net018 net17 net19 OUT<6> / FULL_ADDER
XI2 gnd! net016 net15 net17 OUT<5> / FULL_ADDER
XI1 gnd! net014 net13 net15 OUT<4> / FULL_ADDER
XI19 IN<7> net020 / Inverter
XI18 IN<6> net018 / Inverter
XI17 IN<5> net016 / Inverter
XI16 IN<4> net014 / Inverter
XI15 IN<3> net012 / Inverter
XI14 IN<2> net010 / Inverter
XI13 IN<1> net08 / Inverter
XI12 IN<0> net05 / Inverter
.ENDS

